US05631356
b. N-(2-(R,S)-hydroxyoctadecanoyl) phytosphingosine
A mixture of 35.62 grams (55.4 mmoles) of N-(2-acetoxy-octadecanoyl) phytosphingosine, 250 ml of 96% ethanol and 20 ml of 6.18M sodium hydroxide is stirred for 1.5 hours. An additional 5 ml of 6.18M sodium hydroxide is added and the stirring continued for 1 hour.

reactant | N-(2-acetoxy-octadecanoyl) phytosphingosine | 55.4 mmoles, 35.62 grams | C(C)(=O)OC(C(=O)N[C@@H](CO)[C@H](O)[C@H](O)CCCCCCCCCCCCCC)CCCCCCCCCCCCCCCC | C38H75NO6
reactant | sodium hydroxide | 6.18M, 20 ml | [OH-].[Na+]
reactant | sodium hydroxide | 6.18M, 5 ml | [OH-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N-(2-(R,S)-hydroxyoctadecanoyl) phytosphingosine | OC(C(=O)N[C@@H](CO)[C@H](O)[C@H](O)CCCCCCCCCCCCCC)CCCCCCCCCCCCCCCC | C36H73NO5
